US08486938B2
(+/−)-Cis-3-methylpiperidine-2-carboxylic acid (10.4 g, 72.9 mmol) in 1,4-dioxane (200 mL) and 1 N NaOH (218 mL, 219 mmol) was treated with CBzCl (15.4 mL, 109 mmol) and stirred for 18 h. The mixture concentrated and the resulting solid was suspended in EtOAc (200 mL) and the mixture was filtered. The solids were washed with EtOAc (3 50 mL) and the solution was dried over MgSO4. The solution was concentrated to afford (+/−)-cis-1-(benzyloxycarbonyl)-3-methylpiperidine-2-carboxylic acid, which was used without further purification.

reactant | (+/−)-Cis-3-methylpiperidine-2-carboxylic acid | 72.9 mmol, 10.4 g | C[C@@H]1[C@@H](NCCC1)C(=O)O | C7H13NO2
reactant | NaOH | 219 mmol, 1 N, 218 mL | [OH-].[Na+]
reactant | CBzCl | 109 mmol, 15.4 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | (+/−)-cis-1-(benzyloxycarbonyl)-3-methylpiperidine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](CCC1)C)C(=O)O | C15H19NO4
